* C:\users\andrey\Documents\ifrs\11Sem\Instrumentacao\BalancaAtual\Balanca2\Circuito\Projeto1.asc
* Generated by LTspice 24.1.5 for Windows.
V1 N010 Entrada PULSE(-2m 2m 0 50n 50n 5m 10m)
X§U1 N010 N007 +15V -15V N009 LT1001
V2 +15V 0 15
V3 0 -15V 15
X§U3 Entrada N003 +15V -15V N002 LT1001
X§U4 N008 N004 +15V -15V V_Inst LT1001
R1 N002 N003 25k
R3 N003 N006 1
R4 N004 N002 40k
R8 N006 N007 100
R11 N014 Saida1 10k
R12 Saida N014 47k
X§U5 0 N016 +15V -15V Saida LT1001
R9 N001 V_Inst 10k
X§U6 N005 N001 +15V -15V Saida1 LT1001
R13 Saida1 N001 10k
S1 V_Inst N005 Controle2 0 MySwitch
S2 0 N005 Controle1 0 MySwitch
V4 10VE 0 PULSE(-5 5 0 50n 50n 5m 10m)
V5 +5V 0 5
V6 0 -5V 5
C1 Saida N016 470n
Q1 N015 N013 N012 0 BC557B
Q2 N011 N013 N012 0 BC547B
X§U2 0 10V +5V -5V Controle2 -5V LM311
R10 +5V Controle2 10k
X§U7 10V 0 +15V -5V Controle1 -5V LM311
R14 +5V Controle1 10k
X§U8 10VE 10V +15V -15V N013 ADTL082
R16 10V N012 33
C3 10V 0 33p
R15 N015 -15V 330
R17 N011 +15V 330
R18 0 10V 380
R2 N007 N009 25k
R5 N008 N009 40k
R6 V_Inst N004 40k
R7 N008 0 40k
C2 N014 0 4.7µ
R19 N016 N014 10k
.model NPN NPN
.model PNP PNP
.lib C:\users\andrey\AppData\Local\LTspice\lib\cmp\standard.bjt
* R2
* R1
* R2
* R1
* R3
* R3
* RG_Serie
* R1=10k\nR2=100k\nR3=10k\nRG=Pot(10k)\nRG_Serie=330
* Amplificador Instrumentacao\n(GANHO DE 163 A 4400)
* Amplificador Ganho 2
* R1
* RG
.tran 5
* R1
* R2
.model MySwitch SW(Ron=0.1 Roff=1Meg Vt=2.5 Vh=0.5)
* ZeroCrossing Controll
* Buffer AC
* Demodulação do Sinal AC
.lib ADI.lib
.lib LM311.lib
.lib LTC.lib
.backanno
.end
